US07585881B2
(+)-(1R)-1-[5-(3-chlorophenyl)-[1,2,4]oxadiazol-3-yl]ethanol
7.13 g (26.7 mmol) (+)-(1R)-1-[5-(3-chlorophenyl)-[1,2,4]oxadiazol-3-yl]ethyl acetate and 2.33 g (56.7 mmol) lithium hydroxide monohydrate were mixed with 1:1 THF/Water (100 mL) and stirred for 18 h. Reducing the volume of the mixture in vacuo to about ½, followed by dilution with brine and extraction with ethyl acetate. 5.8 g (97%) of the title compound was obtained after evaporation and drying. 1H NMR: 8.14 (s, 1 H), 8.02 (d, 1 H), 7.57 (d, 1 H), 7.47 (t, 1 H), 5.04-5.14 (m, 1 H), 2.42 (br s, 1 H), 1.67 (d, 3 H)

reactant | (+)-(1R)-1-[5-(3-chlorophenyl)-[1,2,4]oxadiazol-3-yl]ethyl acetate | 26.7 mmol, 7.13 g | C(C)(=O)O[C@H](C)C1=NOC(=N1)C1=CC(=CC=C1)Cl | C12H11ClN2O3
reactant | lithium hydroxide monohydrate | 56.7 mmol, 2.33 g | O.[OH-].[Li+]
solvent | THF Water | 100 mL | C1CCOC1.O
product | (+)-(1R)-1-[5-(3-chlorophenyl)-[1,2,4]oxadiazol-3-yl]ethanol | 5.8 g, 97% | ClC=1C=C(C=CC1)C1=NC(=NO1)[C@@H](C)O | C10H9ClN2O2
